US05965490
2. Preparation of 2-(Benzylthio)anisole
A solution of 25.0 g (178 mmol) of 2-methoxythiophenol in 50 mL of dry tetrahydrofuran was added dropwise to a mixture of 22.0 g (196 mmol) of potassium t-butoxide and 100 mL of tetrahydrofuran at 0° C. with stirring. A solution of 25 mL (214 mmol) of benzyl chloride in 50 mL of tetrahydrofuran was added to this with stirring and cooling and the mixture was then allowed to warm to ambient temperature and was stirred for 18 hours. The resulting mixture was concentrated by evaporation under reduced pressure and the residue was diluted with 300 mL of dichloromethane. The solution obtained was washed with water, dried over magnesium sulfate, and concentrated by evaporation under reduced pressure. The residue was the title compound, a white solid melting at 69-70° C.

reactant | 2-methoxythiophenol | 178 mmol, 25.0 g | COC1=C(C=CC=C1)S | C7H8OS
reactant | potassium t-butoxide | 196 mmol, 22.0 g | CC(C)([O-])C.[K+]
reactant | benzyl chloride | 214 mmol, 25 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-(Benzylthio)anisole | C(C1=CC=CC=C1)SC1=C(C=CC=C1)OC | C14H14OS
